data/oMe_Silver.jsonl
{"reaction_id": "NR-034_1-c1ccccc1_2-c1ccc(Cl)cc1_3-C(=O)OC_4-C(F)(F)F","name": "Burgess Dehydration","level": "easy","reactants_smiles": ["C(c1ccccc1)(c1ccc(Cl)cc1)(O)C(C(=O)OC)(C(F)(F)F)","COC(=O)[N-]S(=O)(=O)[N+](CC)(CC)CC"],"products_smiles": ["C(c1ccccc1)(c1ccc(Cl)cc1)=C(C(=O)OC)(C(F)(F)F)"],"conditions": "Burgess Reagent (the second reactant)","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "COC(=O)[N-]S(=O)(=O)[OH+](C(c1ccccc1)(c1ccc(Cl)cc1)C(C(=O)OC)(C(F)(F)F))","rationale": "The electrophilic sulfur in the Burgess reagent is activated by electron-withdrawing sulfonyl and carbamate groups, allowing nucleophilic attack by the alcohol oxygen to form a sulfamate ester intermediate."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "COC(=O)[N-]S(=O)(=O)OC(c1ccccc1)(c1ccc(Cl)cc1)C(C(=O)OC)(C(F)(F)F)","rationale": "Proton transfer from the oxonium intermediate to the carbamate nitrogen neutralizes charge, stabilizing the intermediate and preparing the oxygen for elimination."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccccc1)(c1ccc(Cl)cc1)=C(C(=O)OC)(C(F)(F)F)","rationale": "The sulfamate group is an excellent leaving group due to resonance stabilization and electron-withdrawing substituents, enabling β-elimination to form the alkene under mild conditions."}],"description": "The Burgess reagent, a mild dehydrating agent, reacts with the alcohol to form a sulfamate ester intermediate. Under the reaction conditions, intramolecular elimination occurs, driven by the good leaving group ability of the sulfamate, yielding the alkene product under mild, non-acidic conditions."}
{"reaction_id": "NR-228_1-c1ccc(OC)cc1_2-Cl_3-CC_4-C(C)(C)C_5-CC(C)C","level": "easy","name": "Prilezhaev Reaction","reactants_smiles": ["C(c1ccc(OC)cc1)=C(Cl)(CC)","C(C)(C)CC(=O)OCC(C)C"],"products_smiles": ["C(c1ccc(OC)cc1)1OC1(Cl)CC"],"conditions": "Peroxy acid","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(c1ccc(OC)cc1)1OC1(Cl)CC","step_weight": 0,"rationale": "The alkene π electrons attack the electrophilic oxygen of the peroxy acid due to its polarization by the adjacent carbonyl, enabling a concerted transition state that minimizes charge separation and forms the epoxide efficiently."}],"description": "The alkene undergoes electrophilic addition with the peroxy acid in a concerted Prilezhaev epoxidation, where the π bond attacks the electrophilic terminal oxygen of the peracid, forming a three-membered epoxide ring in a single step under mild conditions."}
